US09334269B2
To a stirred solution of (9H-fluoren-9-yl)methyl 4-(bromoacetyl)piperidine-1-carboxylate (3 g, 7.03 mmol) in EtOH (20 mL) was added thiobenzamide (0.96 g, 7.03 mmol). This reaction mixture was stirred at RT for 24 h. NaHCO3 (3 g) was added and the reaction mixture was further stirred for 5 d. The reaction mixture was concentrated to afford the crude material which was chromatographed over silica gel eluting with a gradient (0-10% EtOAc:hexanes) to afford (9H-fluoren-9-yl)methyl 4-(2-phenylthiazol-4-yl)piperidine-1-carboxylate (2 g, 61%) as an off white solid.

reactant | (9H-fluoren-9-yl)methyl 4-(bromoacetyl)piperidine-1-carboxylate | 7.03 mmol, 3 g | BrCC(=O)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C22H22BrNO3
reactant | thiobenzamide | 7.03 mmol, 0.96 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | NaHCO3 | 3 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | (9H-fluoren-9-yl)methyl 4-(2-phenylthiazol-4-yl)piperidine-1-carboxylate | 2 g, 61% | C1(=CC=CC=C1)C=1SC=C(N1)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C29H26N2O2S
